US07087601B2
To a stirred solution of 4-fluoro-2-nitrophenol (4.05 g, 25.8 mmol) in MeOH (200 mL) was added tin(II) chloride dihydrate (17.47 g, 77.4 mmol). The reaction mixture was heated at reflux and monitored by LC/MS. When significant reduction was complete, the reaction mixture was cooled to rt, poured over ice, and made basic (pH 9) with 50% saturated NaHCO3. The aqueous layer was extracted with EtOAc (2×200 mL) and the combined extracts washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give 2-amino-4-fluorophenol as a grayish green solid. 1H NMR (CDCl3, 300 MHz) δ 6.64 (dd, 1H), 6.47 (dd, 1H), 6.33 (dt, 1H), 4.48 (br s, 1H), 3.78 (br s, 2H).

reactant | 4-fluoro-2-nitrophenol | 25.8 mmol, 4.05 g | FC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | tin(II) chloride dihydrate | 77.4 mmol, 17.47 g | O.O.[Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 2-amino-4-fluorophenol | NC1=C(C=CC(=C1)F)O | C6H6FNO
